US09120804B2
6-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-3,3-dimethyl-1,3-dihydro-indol-2-one (“C70”)
8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine, synthesized as described earlier, is coupled with 6-chloro-3,3-dimethyl-1,3-dihydro-indol-2-one under Buchwald Hartwig conditions using general procedure 2.

reactant | 8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CN1)N=C(N2)N | C12H11N5O2S
reactant | 6-chloro-3,3-dimethyl-1,3-dihydro-indol-2-one | ClC1=CC=C2C(C(NC2=C1)=O)(C)C | C10H10ClNO
product | 6-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-3,3-dimethyl-1,3-dihydro-indol-2-one | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CN1)N=C(N2)NC2=CC=C1C(C(NC1=C2)=O)(C)C | C22H20N6O3S
